### PR TITLE
Formalize Erdos 17

### PR DESCRIPTION
**Pull request by priyankaranke**
Please see issue #196

### CODE REVIEW

File: FormalConjectures/ErdosProblems/17.lean [hunk 1]
```diff
@@ -0,0 +1,45 @@
...
+@[category research open, AMS 11]
+theorem erdos_17 :
+    ({p : ℕ | Erdos17GoodPrime p}.Infinite) ↔ answer(sorry) := by
+  sorry
+
+/--
+The first prime **without** the Erdős 17 property is $97$.
+-/
+@[category test, AMS 11]
+example : Prime 97 ∧ ¬ Erdos17GoodPrime 97 ∧
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/17.lean]: This works but I'd suggest formalising this statement using `IsLeast` (since that's a more principled approach to formalising this type of claim)

File: FormalConjectures/ErdosProblems/17.lean [hunk 2]
```diff
@@ -0,0 +1,45 @@
...
+  Prime p ∧
+    ∀ {n : ℕ}, Even n → n ≤ p - 3 →
+      ∃ q₁ q₂ : ℕ, Prime q₁ ∧ Prime q₂ ∧
+        q₁ ≤ p ∧ q₂ ≤ p ∧ n = q₁ - q₂
+
+/-- **Erdős Problem 17.** Are there infinitely many good primes?
+(The term *good* is defined above.) -/
+@[category research open, AMS 11]
+theorem erdos_17 :
+    ({p : ℕ | Erdos17GoodPrime p}.Infinite) ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
    {p : ℕ | Erdos17GoodPrime p}.Infinite ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/17.lean [hunk 3]
```diff
@@ -0,0 +1,45 @@
...
+/-!
+# Erdős Problem 17
+*Reference:* [erdosproblems.com/17](https://www.erdosproblems.com/17)
+-/
+
+/-- A prime $p$ is **good** (Erdős 17) if every even integer
+$n \le p - 3$ can be written as a difference of two primes
+$q_1 - q_2$ with $q_1, q_2 \le p$. -/
+def Erdos17GoodPrime (p : ℕ) : Prop :=
+  Prime p ∧
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/17.lean]: (somewhat a matter of personal preference): I think it's little nicer to use `Nat.Prime` rather than `Prime`
```suggestion
  p.Prime ∧
```

File: FormalConjectures/ErdosProblems/17.lean [hunk 4]
```diff
@@ -0,0 +1,45 @@
...
+      ∃ q₁ q₂ : ℕ, Prime q₁ ∧ Prime q₂ ∧
+        q₁ ≤ p ∧ q₂ ≤ p ∧ n = q₁ - q₂
+
+/-- **Erdős Problem 17.** Are there infinitely many good primes?
+(The term *good* is defined above.) -/
+@[category research open, AMS 11]
+theorem erdos_17 :
+    ({p : ℕ | Erdos17GoodPrime p}.Infinite) ↔ answer(sorry) := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/17.lean:40]: The Erdős Problems webpage mentions two related asymptotic results - would you be up for adding these too?

File: FormalConjectures/ErdosProblems/17.lean (hunk 1 above)
Comment (priyankaranke) [reply FormalConjectures/ErdosProblems/17.lean]: Thank you! Yeah, absolutely, I'm new to Lean so definitely looking to learn more about what the most precise/principled approach is.

File: FormalConjectures/ErdosProblems/17.lean (hunk 4 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/17.lean:40]: (of course you could also leave this as TODO)

Comment (priyankaranke) [reply FormalConjectures/ErdosProblems/17.lean:40]: Thank you both! I've attempted to formalize the two related results, please let me know if there's a better way to represent asymptotic bounds and the counting that I may have missed!

File: FormalConjectures/ErdosProblems/17.lean [hunk 5]
```diff
@@ -0,0 +1,67 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 17
+*Reference:* [erdosproblems.com/17](https://www.erdosproblems.com/17)
+-/
+
+/-- A prime $p$ is a cluster prime if every even integer
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
/-- A prime $p$ is a cluster prime if every even natural number
```

File: FormalConjectures/ErdosProblems/17.lean [hunk 6]
```diff
@@ -0,0 +1,67 @@
...
+$n \le p - 3$ can be written as a difference of two primes
+$q_1 - q_2$ with $q_1, q_2 \le p$. -/
+def ClusterPrime (p : ℕ) : Prop :=
+  p.Prime ∧
+    ∀ {n : ℕ}, Even n → n ≤ p - 3 →
+      ∃ q₁ q₂ : ℕ, q₁.Prime ∧ q₂.Prime ∧
+        q₁ ≤ p ∧ q₂ ≤ p ∧ n = q₁ - q₂
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
    ∀ {n : ℕ}, Even n → n ≤ (p - 3 : ℤ) →
      ∃ q₁ q₂ : ℕ, q₁.Prime ∧ q₂.Prime ∧
        q₁ ≤ p ∧ q₂ ≤ p ∧ n = (q₁ - q₂ : ℤ)
```
Here we need to be careful, since by default these subtractions will be natural number subtractions. I don't think there is an issue with the cases when truncation happens here, but I think its still better to avoid, so that it is more faithful to the informal statement.

File: FormalConjectures/ErdosProblems/17.lean [hunk 7]
```diff
@@ -0,0 +1,67 @@
...
+
+/-!
+# Erdős Problem 17
+*Reference:* [erdosproblems.com/17](https://www.erdosproblems.com/17)
+-/
+
+/-- A prime $p$ is a cluster prime if every even integer
+$n \le p - 3$ can be written as a difference of two primes
+$q_1 - q_2$ with $q_1, q_2 \le p$. -/
+def ClusterPrime (p : ℕ) : Prop :=
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
def IsClusterPrime (p : ℕ) : Prop :=
```
I would call this `IsClusterPrime` since it is a `Prop`

File: FormalConjectures/ErdosProblems/17.lean [hunk 8]
```diff
@@ -0,0 +1,67 @@
...
+@[category research solved, AMS 11]
+theorem erdos_17.variants.upper_Elsholtz {c : ℝ} (hc : c < (1 / 8 : ℝ)) :
+    ∃ C : ℝ, 0 < C ∧
+      ∀ x : ℕ, (clusterPrimeCount x : ℝ) ≤
+        C * x * Real.exp (-c * (Real.log (Real.log x)) ^ 2) := by
+  sorry
+
+/-- $97$ is the smallest prime that is not a cluster prime. -/
+@[category test, AMS 11]
+example : IsLeast {p : ℕ | p.Prime ∧ ¬ ClusterPrime p} 97 := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
example : IsLeast {p : ℕ | p.Prime ∧ ¬ IsClusterPrime p} 97 := by
```

File: FormalConjectures/ErdosProblems/17.lean [hunk 9]
```diff
@@ -0,0 +1,67 @@
...
+def ClusterPrime (p : ℕ) : Prop :=
+  p.Prime ∧
+    ∀ {n : ℕ}, Even n → n ≤ p - 3 →
+      ∃ q₁ q₂ : ℕ, q₁.Prime ∧ q₂.Prime ∧
+        q₁ ≤ p ∧ q₂ ≤ p ∧ n = q₁ - q₂
+
+/-- **Erdős Problem 17.** Are there infinitely many cluster primes? -/
+@[category research open, AMS 11]
+theorem erdos_17 :
+    {p : ℕ | ClusterPrime p}.Infinite ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
    {p : ℕ | IsClusterPrime p}.Infinite ↔ answer(sorry) := by
```

File: FormalConjectures/ErdosProblems/17.lean [hunk 10]
```diff
@@ -0,0 +1,67 @@
...
+  sorry
+
+/-- The counting function of cluster primes $\le x$. -/
+noncomputable def clusterPrimeCount (x : ℕ) : ℕ :=
+  Nat.card {p : ℕ | p ≤ x ∧ ClusterPrime p}
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
noncomputable def clusterPrimeCount (x : ℕ) : ℕ :=
  Nat.card {p : ℕ | p ≤ x ∧ IsClusterPrime p}
```

**Review by callesonne — COMMENTED** [review]
Thanks for the constribution! Here are some partial comments

File: FormalConjectures/ErdosProblems/17.lean (hunk 7 above)
Comment (priyankaranke) [reply FormalConjectures/ErdosProblems/17.lean]: That makes sense to me, fixed!

File: FormalConjectures/ErdosProblems/17.lean (hunk 6 above)
Comment (priyankaranke) [reply FormalConjectures/ErdosProblems/17.lean]: Fixed, thank you!

File: FormalConjectures/ErdosProblems/17.lean [hunk 11]
```diff
@@ -0,0 +1,67 @@
...
+  sorry
+
+/-- The counting function of cluster primes $\le x$. -/
+noncomputable def clusterPrimeCount (x : ℕ) : ℕ :=
+  Nat.card {p : ℕ | p ≤ x ∧ IsClusterPrime p}
+
+/--
+In 1999 Blecksmith, Erdős, and Selfridge [BES99] proved the upper bound
+$$\pi^{\mathcal{C}}(x) \ll_A x(\log x)^{-A}$$ for every real $A > 0$.
+-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
$$\pi^{\mathcal{C}}(x) \ll_A x(\log x)^{-A}$$ for every real $A > 0$.

[BES99] Blecksmith, Richard and Erd\H os, Paul and Selfridge, J. L., Cluster primes. Amer. Math. Monthly (1999), 43--48.
-/
```

File: FormalConjectures/ErdosProblems/17.lean [hunk 12]
```diff
@@ -0,0 +1,67 @@
...
+
+/--
+In 2003, Elsholtz [El03] refined the upper bound to
+$$\pi^{\mathcal{C}}(x) \ll x\,\exp\!\bigl(-c(\log\log x)^2\bigr)$$
+for every real $0 < c < 1/8$. -/
+@[category research solved, AMS 11]
+theorem erdos_17.variants.upper_Elsholtz {c : ℝ} (hc : 0 < c ∧ c < (1/8 : ℝ)) :
+  ∃ C : ℝ, 0 < C ∧
+    ∀ x : ℕ, (clusterPrimeCount x : ℝ) ≤
+      C * x * Real.exp (-c * (Real.log (Real.log x)) ^ 2) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]: Here I think `C` should not depend on `c`. So the statement should only quantify on `c` after `C` has been introduced.

File: FormalConjectures/ErdosProblems/17.lean [hunk 13]
```diff
@@ -0,0 +1,67 @@
...
+theorem erdos_17.variants.upper_BES {A : ℝ} (hA : 0 < A) :
+  ∃ C : ℝ, 0 < C ∧
+    ∀ x : ℕ, (clusterPrimeCount x : ℝ) ≤ C * x / (Real.log x) ^ A := by
+  sorry
+
+/--
+In 2003, Elsholtz [El03] refined the upper bound to
+$$\pi^{\mathcal{C}}(x) \ll x\,\exp\!\bigl(-c(\log\log x)^2\bigr)$$
+for every real $0 < c < 1/8$. -/
+@[category research solved, AMS 11]
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
for every real $0 < c < 1/8$.

[El03] Elsholtz, Christian, On cluster primes. Acta Arith. (2003), 281--284.
-/
@[category research solved, AMS 11]
```

File: FormalConjectures/ErdosProblems/17.lean [hunk 14]
```diff
@@ -0,0 +1,67 @@
...
+  Nat.card {p : ℕ | p ≤ x ∧ IsClusterPrime p}
+
+/--
+In 1999 Blecksmith, Erdős, and Selfridge [BES99] proved the upper bound
+$$\pi^{\mathcal{C}}(x) \ll_A x(\log x)^{-A}$$ for every real $A > 0$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_17.variants.upper_BES {A : ℝ} (hA : 0 < A) :
+  ∃ C : ℝ, 0 < C ∧
+    ∀ x : ℕ, (clusterPrimeCount x : ℝ) ≤ C * x / (Real.log x) ^ A := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
theorem erdos_17.variants.upper_BES {A : ℝ} (hA : 0 < A) :
    (fun x ↦ (clusterPrimeCount x : ℝ)) =O[atTop] fun x ↦ x / (Real.log x) ^ A := by
  sorry
```
See main review comment.

**Review by callesonne — COMMENTED** [review]
Some final comments, once these are addressed it's ready to go!

About the asymptotics, they are supposed to hold only for sufficiently large `x`. The general way of doing this is to use [Filter.Eventually](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Defs.html#Filter.Eventually) (notation `∀ᶠ`). In your situation however you can use `IsBigO` to make it even cleaner, I've left a suggestion for how to do it for `erdos_17.variants.upper_BES`

File: FormalConjectures/ErdosProblems/17.lean [hunk 15]
```diff
@@ -0,0 +1,67 @@
...
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 17
+*Reference:* [erdosproblems.com/17](https://www.erdosproblems.com/17)
+-/
+
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean:23]:
```suggestion
-/

open Filter

open scoped Asymptotics
```
For the suggestion about using `IsBigO` (and corresponding notation) we need to open this.

File: FormalConjectures/ErdosProblems/17.lean (hunk 14 above)
Comment (priyankaranke) [reply FormalConjectures/ErdosProblems/17.lean]: This is much nicer notation, thank you so much! I've fixed this for `erdos_17.variants.upper_BES` as you suggested.

For `erdos_17.variants.upper_Elsholtz`, I'm a bit concerned that using `=O[atTop]` would still allow the implicit variable in `IsBigO` to vary with `c`, which we don't want to allow ([comment](https://github.com/google-deepmind/formal-conjectures/pull/212#discussion_r2148818228)). 

For that reason, I kept the big-O formulation explicit, but added `∀ᶠ` to make the statement hold only for sufficiently large x.

Please let me know if that statement needs more work, thanks again for your help!

File: FormalConjectures/ErdosProblems/17.lean [hunk 16]
```diff
@@ -0,0 +1,77 @@
...
+[El03] Elsholtz, Christian, On cluster primes. Acta Arith. (2003), 281--284.
+-/
+@[category research solved, AMS 11]
+theorem erdos_17.variants.upper_Elsholtz :
+  ∃ C : ℝ, 0 < C ∧
+    ∀ c : ℝ, (0 < c ∧ c < (1 / 8 : ℝ)) →
+      ∀ᶠ x : ℕ in atTop,
+        (clusterPrimeCount x : ℝ) ≤
+          C * x * Real.exp (-c * (Real.log (Real.log x)) ^ 2) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
theorem erdos_17.variants.upper_Elsholtz :
  ∃ C : ℝ, 0 < C ∧
    ∀ c ∈ Set.Ioo 0 (1 / 8),
      IsBigOWith C atTop (fun x ↦ (clusterPrimeCount x : ℝ))
        (fun x ↦ x * exp (-c * (log (log x)) ^ 2)) := by
  sorry
```

File: FormalConjectures/ErdosProblems/17.lean (hunk 14 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/17.lean]: There is `IsBigOWith`, which I think solves this! Downside is that there is no nice notation for it, although Mathlib should probably add that at some point :)

File: FormalConjectures/ErdosProblems/17.lean [hunk 17]
```diff
@@ -0,0 +1,77 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 17
+*Reference:* [erdosproblems.com/17](https://www.erdosproblems.com/17)
+-/
+
+open Filter
+
+open scoped Asymptotics
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/17.lean]:
```suggestion
open Filter Asymptotics Real
```
Right, you also need open Asymptotics to implement my comment! And I would open Real, so you can get rid of the `Real.exp` and `Real.log` to make everything a bit shorter :)

File: FormalConjectures/ErdosProblems/17.lean (hunk 16 above)
Comment (priyankaranke) [reply FormalConjectures/ErdosProblems/17.lean]: Thanks for the `IsBigOWith` suggestion, fixed!

**Comment by priyankaranke** [comment]
👋 Hey folks, could you let me know what the next steps are here? I don't have merge access to `google-deepmind:main`. Also happy to make other changes to this PR as needed. Thanks again for all your help.

**Review by mo271 — APPROVED** [review]

**Comment by mo271** [comment]
Thanks for the contribution!
